US05180418
While stirring at room temperature, a solution of 6.3 g of 1-(2-chloro-4-fluoro-5-isothiocyanato-phenylthio)-cyclopropanecarboxylic acid methyl ester in 30 ml of ethanol is added dropwise to a solution of 2.2 g of hexahydropyridazine in 30 ml of ethanol. After stirring for 30 minutes at room temperature, the reaction mixture is concentrated by evaporation in vacuo, yielding 7.9 g of 1-[2-chloro-4-fluoro-5-(1-hexahydropyridazinyl-thiocarbonylamino)-phenylthio]-cyclopropanecarboxylic acid methyl ester having a melting point of from +156° to +157° C.

reactant | 1-(2-chloro-4-fluoro-5-isothiocyanato-phenylthio)-cyclopropanecarboxylic acid methyl ester | 6.3 g | COC(=O)C1(CC1)SC1=C(C=C(C(=C1)N=C=S)F)Cl | C12H9ClFNO2S2
reactant | hexahydropyridazine | 2.2 g | N1NCCCC1 | C4H10N2
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 1-[2-chloro-4-fluoro-5-(1-hexahydropyridazinyl-thiocarbonylamino)-phenylthio]-cyclopropanecarboxylic acid methyl ester | 7.9 g | COC(=O)C1(CC1)SC1=C(C=C(C(=C1)NC(=S)N1NCCCC1)F)Cl | C16H19ClFN3O2S2
